US05126345
(C). (trans)-3,3-Diethoxy-1,2-cyclobutanedimethanol
To a suspension of lithium aluminum hydride (2.38 g, 0.0627 mol) in dry THF (50 ml) was added slowly (trans)-3,3-diethoxy-1,2-cyclobutanedicarboxylic acid, diethyl ester (11.29 g, 0.0392 mol) in THF (25 ml) so that a gentle reflux was maintained. The reaction was heated at 55° for 4 hours and then diluted with ether (100 ml) and poured into saturated aqueous ammonium chloride (100 ml). The pH was lowered to 4 with 3M sulfuric acid. The suspension was extracted with ether (4×100 ml) and then chloroform (3×100 ml). The ether extracts were combined, dried over sodium sulfate, filtered and concentrated to give 5.613 g of desired product. The chloroform extracts were combined, dried over sodium sulfate, filtered and concentrated to give 112 mg of additional desired product.

reactant | lithium aluminum hydride | 0.0627 mol, 2.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (trans)-3,3-diethoxy-1,2-cyclobutanedicarboxylic acid, diethyl ester | 0.0392 mol, 11.29 g | C(C)OC1([C@H]([C@@H](C1)C(=O)OCC)C(=O)OCC)OCC | C14H24O6
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
reactant | sulfuric acid | 3M | S(O)(O)(=O)=O | H2O4S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | (trans)-3,3-Diethoxy-1,2-cyclobutanedimethanol | 5.613 g | C(C)OC1([C@H]([C@@H](C1)CO)CO)OCC | C10H20O4
